US04885322
Into a flask, 129 g (1.0 mole) of 1-aminooctane and 100 ml of methanol were charged, and then 89 g (1.0 mole) of 2-nitropropane were dropped into the flask maintained at about 40° C over a period of about 30 minutes. After that, upon maintaining the mixture at the same temperature for 30 minutes, crystals were precipitated to give slurry. The reaction mixture was cooled to a temperature of 5° C and then filtered. The filtered precipitates were washed with 30 ml of cold methanol and dried under reduced pressure to obtain 213 g of 1-octylammonium 2-nitropropan-2-ide with a yield of 97.7%.

reactant | 1-aminooctane | 1.0 mole, 129 g | NCCCCCCCC | C8H19N
reactant | 2-nitropropane | 1.0 mole, 89 g | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | methanol | 100 ml | CO | CH4O
product | 1-octylammonium 2-nitropropan-2-ide | 213 g, yield of 97.7% | [N+](=O)([O-])[C-](C)C.C(CCCCCCC)[NH3+] | InChI=1S/C8H19N.C3H6NO2/c1-2-3-4-5-6-7-8-9;1-3(2)4(5)6/h2-9H2,1H3;1-2H3/q;-1/p+1
